US08008525B2
Ethyl 3-fluoro-4-[(2,4,6-trimethylphenyl)methoxy]benzenepropanoate
2-Chloromethyl-2,4,6-trimethylbenzene (397 mg, 2.4 mmol), ethyl 3-fluoro-4-hydroxybenzenepropanoate (500 mg, 2.4 mmol) and potassium carbonate (358 mg, 2.6 mmol) were stirred in DMF (8 mL) at 50° C. for 3 hours. The reaction solution was poured into water (30 mL) and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with water and saturated brine, and dried over magnesium sulfate. Then, the solvent was distilled off under reduced pressure, and the residue was purified with silica gel column chromatography (hexane/ethyl acetate) to give the title compound (425 mg, yield 52%) as an oily matter.

reactant | 2-Chloromethyl-2,4,6-trimethylbenzene | 2.4 mmol, 397 mg | ClCC1(CC(=CC(=C1)C)C)C | C10H15Cl
reactant | ethyl 3-fluoro-4-hydroxybenzenepropanoate | 2.4 mmol, 500 mg | FC=1C=C(C=CC1O)CCC(=O)OCC | C11H13FO3
reactant | potassium carbonate | 2.6 mmol, 358 mg | C([O-])([O-])=O.[K+].[K+]
reactant | water | 30 mL | O | H2O
solvent | DMF | 8 mL | CN(C)C=O | C3H7NO
product | Ethyl 3-fluoro-4-[(2,4,6-trimethylphenyl)methoxy]benzenepropanoate | 425 mg, yield 52% | FC=1C=C(C=CC1OCC1=C(C=C(C=C1C)C)C)CCC(=O)OCC | C21H25FO3
